US04053657
PREPARATION OF 1-(3,3-DIMETHYL-2-NORBORNYL)-2-PROPANONE
A 1 liter water jacketed photochemical reaction vessel equipped with magnetic stirrer and pyrex immersion well is charged with 418 g camphene (807, Aldrich) and 372 g acetaldehyde and 30 g diacetyl (photochemical hydrogen abstractor). The mixture is irradiated with a 450 medium pressure mercury lamp (Hanovia) for 55 hours, during which time five 30 g portions of diacetyl are added at varying intervals. The reaction mixture is combined with 150 g of 1,2,4-trimethyl benzene and washed with water. The material is distilled without fractionation and then redistilled through a 5 foot Vigreux column to yield 224 g colorless product, b.p. 70°-72° (55 mm Hg).

reactant | camphene | 418 g | C12C(C)(C)C(=C)C(CC1)C2 | C10H16
reactant | acetaldehyde | 372 g | C(C)=O | C2H4O
reactant | 1,2,4-trimethyl benzene | 150 g | CC1=C(C=C(C=C1)C)C | C9H12
product | 1-(3,3-DIMETHYL-2-NORBORNYL)-2-PROPANONE | 224 g | CC1(C(C2CCC1C2)CC(C)=O)C | C12H20O
